US07479574B2
To a 100-ml reaction flask 45.8 mg (0.10 mmol) of an optically active ligand 4-(cis-2,6-dimethylpiperidine)-(R)-ditetrahydronaphthodioxaphosphepin, 16.4 mg (0.045 mm mol) of Cu(OTf)2, 8.0 ml (16 mmol) of a dimethylzinc toluene solution (2.0 mol/L), and 36 g of xylene were added and stirred. 1.7 g (11 mmol) of n-butanoic anhydride was added thereto at −20° C. and then, 2.2 g (10 mmol) of (2E)-cyclopentadecenone was added dropwise over 1 hour. After dropwise addition, the mixture was stirred additionally for 4 hours until completion of the reaction was determined by gas chromatographic analysis. The reaction was terminated by addition of an aqueous 5% sulfuric acid solution after completion of the reaction; the reaction solution was phase-separated and washed with water; and then, the solvent was evaporated under reduced pressure to give 3.0 g of a crude product. The concentrated solution was purified by silica gel column chromatography to give 2.8 g (9.1 mmol) of (R)-3-methyl-1-cyclopentadecenyl butyrate (yield: 91%). Gas chromatographic analysis thereof gave E/Z=3.8/96.2.

reactant | dimethylzinc toluene | 16 mmol, 2.0 mol/L, 8.0 ml | C1(=CC=CC=C1)C.C[Zn]C
reactant | n-butanoic anhydride | 11 mmol, 1.7 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | (2E)-cyclopentadecenone | 10 mmol, 2.2 g | C1(\C=C\CCCCCCCCCCCC1)=O | C15H26O
catalyst | Cu(OTf)2 | 16.4 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
solvent | xylene | 36 g | C=1(C(=CC=CC1)C)C | C8H10
product | (R)-3-methyl-1-cyclopentadecenyl butyrate | 9.1 mmol, 2.8 g, yield: 91% | C(CCC)(=O)OC1=C[C@@H](CCCCCCCCCCCC1)C | C20H36O2
